US06403586B1
(1) Preparation of 2-benzyl-4-dimethanesulfonylamino-6-(4-methoxyphenyl)-2H-pyridazin-3-one
To a solution of 4-amino-2-benzyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one (60 mg, 0.20 mmol) and triethylamine (80 mg, 0.79 mmol) in toluene (1 ml), methanesulfonyl chloride (70 mg, 0.61 mmol) was added, followed by heating under stirring at 40° C. for 1 hour. Chloroform was added to the reaction mixture. The organic layer was washed with water and brine, and was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was separated and purified by silica gel preparative chromatography [developer: hexane/ethyl acetate (1/1)], whereby the title compound (76 mg, 90.4%) was obtained.

reactant | 4-amino-2-benzyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | 0.20 mmol, 60 mg | NC=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)=O | C18H17N3O2
reactant | triethylamine | 0.79 mmol, 80 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.61 mmol, 70 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyl-4-dimethanesulfonylamino-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)N(S(=O)(=O)C)S(=O)(=O)C)C1=CC=C(C=C1)OC | C20H21N3O6S2
